US04545880
Preparation of 10-hydroxycamptothecin
10-Aminocamptothecin (50 mg, 0.138 m-mol) is dissolved in a 10% aqueous solution of sulfuric acid (5 ml). To this solution in a salted ice bath is added dropwise slowly an aqueous solution of sodium nitrite (9.5 mg, 0.138 m-mol) with stirring. After the addition of sodium nitrite, the mixture is further stirred for 10 minutes in a salted ice bath. To the reaction mixture is added conc. sulfuric acid (1 ml), and the whole is boiled under reflux for 2 hours. The reaction mixture is diluted with ice water (200 ml) and chloroform (200 ml) is added. The mixture is shaken in a separating funnel and the resultant emulsion is filtered through celite. The chloroform phase containing camptothecin formed as by-product by side reactions is dried over magnesium sulfate, filtered and evaporated until dryness under reduced pressure whereby camptothecin (8 mg) is recovered. On the other hand, a solid on the celite, which is insoluble in chloroform-water, is taken up in 20% MeOH-CHCl3 (200 ml) and the solution is evaporated until dryness under reduced pressure whereby 28 mg (yield: 66.5% ) of the title compound is obtained as light yellow crystals. M.P. (with decomp.) 270°-272° C. (from pyridine-methanol)

reactant | 10-Aminocamptothecin | 50 mg | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC(=CC5=C4)N)O | C20H17N3O4
reactant | sodium nitrite | 9.5 mg | N(=O)[O-].[Na+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 10-hydroxycamptothecin | 28 mg, yield: 66.5% | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=C(C=CC5=NC4C3=C2)O)O | C20H16N2O5
